US07319101B2
b) 6-Cyano-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid
To a solution of methyl 6-cyano-2,2-diphenyl-1,3-benzodioxole-4-carboxylate (60 mg, 0.168 mmol, 1 eq.) in a mixture of 3 mL MeOH and 0.5 mL CH2Cl2, a solution of LiOH.H2O (21 mg, 0.5 mmol, 3 eq.) in 3 mL H2O was added. The reaction mixture was vigorously stirred 16 h at r.t., then acidified with 10% AcOH in H2O and extracted with EtOAc (3×20 mL). The combined organic phases were washed with saturated aqueous NaCl solution, dried over MgSO4, and the solvents evaporated under reduced pressure to yield the desired compound as a colorless solid.

reactant | methyl 6-cyano-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | 0.168 mmol, 60 mg, 1 eq. | C(#N)C=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)OC | C22H15NO4
reactant | LiOH.H2O | 0.5 mmol, 21 mg, 3 eq. | O[Li].O
reactant | AcOH | CC(=O)O | C2H4O2
solvent | MeOH | 3 mL | CO | CH4O
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 3 mL | O | H2O
product | 6-Cyano-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid | C(#N)C=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)O | C21H13NO4
